US05587389
4. 2-{[[4-[(5-Dimethylaminomethyl-2-furyl)methylthio]- 3-methyl-2-pyridinyl]methyl]thio}-1H-benzimidazole
Following the procedure described in Example 1, the reaction of 2-mercapto-1H-benzimidazole with 2-chloromethyl-4-{[(5-dimethylaminomethyl-2-furyl)methyl]thio}-3-methylpyridine hydrochloride gives the title compound after chromatography on silica gel (dichloromethane/methanol/triethylamine 9:1:0.1 to 2:1:0.1).

reactant | 2-mercapto-1H-benzimidazole | SC1=NC2=C(N1)C=CC=C2 | C7H6N2S
reactant | 2-chloromethyl-4-{[(5-dimethylaminomethyl-2-furyl)methyl]thio}-3-methylpyridine hydrochloride | Cl.ClCC1=NC=CC(=C1C)SCC=1OC(=CC1)CN(C)C
product | 2-{[[4-[(5-Dimethylaminomethyl-2-furyl)methylthio]- 3-methyl-2-pyridinyl]methyl]thio}-1H-benzimidazole | CN(C)CC1=CC=C(O1)CSC1=C(C(=NC=C1)CSC1=NC2=C(N1)C=CC=C2)C | C22H24N4OS2
